US06552021B2
1-Methyl-1H-pyrazolo[3,4-α]phenazine-10-carboxylic acid (2-dimethylamino-ethyl)-amide was prepared from 1-methyl-1H-pyrazolo[3,4-α]phenazine-10-carboxylic acid (II.8) and N,N-dimethylethylenediamine

reactant | 1-methyl-1H-pyrazolo[3,4-α]phenazine-10-carboxylic acid | CN1N=CC=2C1=C1N=C3C(=CC=CC3=NC1=CC2)C(=O)O | C15H10N4O2
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
product | 1-Methyl-1H-pyrazolo[3,4-α]phenazine-10-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)N(N=C4)C)C | C19H20N6O
